US04093726
N (4-methyl valeroyl) piperazine
60 g 4-methylvaleric acid was converted to the acid chloride by heating 1 hour with 120 g thionyl chloride. Distillation gave 45.2 g (65%) 4-methyl valeroyl chloride, bp 35°-38° C/10.0 mm. This product in 100 ml benzene was added to a solution of 56 g N-benzyl piperazine and 33.8 g triethylamine in 250 ml benzene. After 1 hour at 25° a solution of 47 g potassium carbonate in 250 ml water was added. The benzene layer was removed and concentrated. The crude N-(4-methyl valeroyl) N'-benzyl piperazine was hydrogenated in 300 ml ethanol using 16 g 5% pd/catalyst. The product was distilled to give 40.2 g product, bp 110°-115° C/0.1 mm. (65%)

reactant | N-benzyl piperazine | 56 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 33.8 g | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 47 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | water | 250 ml | O | H2O
product | (4-methyl valeroyl) piperazine | 40.2 g | CC(CCC(=O)N1CCNCC1)C | C10H20N2O
